US06166064
Benzene-1,3-disulfonic acid tert-butyl-amide cyclopropylamide
A mixture of 5 ml of cyclopropylamine and 10 ml of water was added to a solution of 1 gram (3.9 mmole) of 3-tert-butylsulfamoyl-benzenesulfonyl chloride in ethyl acetate. The mixture was stirred at room temperature for 2 hours. The ethyl acetate layer was separated, dried over magnesium sulfate and concentrated in vacuo to an oil which crystallized from isopropyl ether to give 839 mg of the titled compound as a solid.

reactant | cyclopropylamine | 5 ml | C1(CC1)N | C3H7N
reactant | water | 10 ml | O | H2O
reactant | 3-tert-butylsulfamoyl-benzenesulfonyl chloride | 3.9 mmole, 1 gram | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C10H14ClNO4S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzene-1,3-disulfonic acid tert-butyl-amide cyclopropylamide | 839 mg | C1(CC1)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C)(C)C | C13H20N2O4S2
